US04178371
(1) BOC-MePhe-NHCH2CH2CH2NMe2
N-t-Butyloxycarbonyl-N-methylphenylalanine (2.79 g) and NMM (1.01 g) were dissolved in dichloromethane (20 ml) and the stirred solution cooled to -20° IBCF (1.37 g) was then added and the mixture stirred for 5 minutes before the addition of NH2CH2CH2CH2NMe2 (1.02 g). The solution was stirred for 1 hour at -20° and then at room temperature for 12 hours. The mixture was evaporated, and the residue dissolved in ethyl acetate (50 ml) and an aqueous solution of sodium bicarbonate (saturated, 50 ml). The ethyl acetate layer was washed with aqueous sodium bicarbonate (saturated, 50 ml), water (2×50 ml) and 10% aqueous citric acid (2×50 ml). The citric acid extracts were combined, made basic with saturated sodium bicarbonate solution, and extracted with ethyl acetate (3×50 ml). The ethyl acetate extracts were combined, dried (Na2SO4) and evaporated to yield the title compound as an oil Rf1E 0.24, Rf3A 0.37.

reactant | N-t-Butyloxycarbonyl-N-methylphenylalanine | 2.79 g | C(C)(C)(C)OC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | NMM | 1.01 g | CN1CCOCC1 | C5H11NO
reactant | NH2CH2CH2CH2NMe2 | 1.02 g | NCCCN(C)C | C5H14N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | BOC-MePhe-NHCH2CH2CH2NMe2 | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)NCCCN(C)C)C | C20H33N3O3
